US05595958
2.0 g of 1-(4-chloropyrid-3-yl)-1-(thien-2-yl)methanol were dissolved in 100 ml of THF and the solution was cooled to 0° C. 3.2 g of trimethylacetyl chloride were added followed by the portionwise addition of 1.0 g of sodium hydride (60%) over a period of 15 minutes. The reaction mixture was allowed to warm to room temperature and then stirred overnight. 100 ml of a saturated ammonium chloride solution were added, and then this mixture was extracted twice with ethyl ether. The combined ether extracts were washed with a 5% aqueous solution of potassium carbonate, dried over magnesium sulfate, filtered, and then concentrated in vacuo to obtain 2.7 g of crude product. This material was then purified via chromatography on a silica gel column using ethyl acetatehexane (1:1) as the eluant to afford 1.9 g of 1-(4-chloropyrid-3-yl)-1-(thien-2-yl)-1-trimethylacetoxymethane as an oil.

reactant | 1-(4-chloropyrid-3-yl)-1-(thien-2-yl)methanol | 2.0 g | ClC1=C(C=NC=C1)C(O)C=1SC=CC1 | C10H8ClNOS
reactant | trimethylacetyl chloride | 3.2 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(4-chloropyrid-3-yl)-1-(thien-2-yl)-1-trimethylacetoxymethane | 1.9 g | ClC1=C(C=NC=C1)C(OC(C(C)(C)C)=O)C=1SC=CC1 | C15H16ClNO2S
